US08198267B2
1-(2,6-Dimethyl-4-nitrophenyl)-3-methoxypyridin-2(1H)-one
336 mg (2.69 mmol) of 3-methoxypyridinone in 10 ml of DMF are admixed at 0° C. with 452 mg (4.03 mmol) of potassium tert-butoxide, and the mixture is stirred at room temperature for 30 min. 500 mg (2.96 mmol) of 1-fluoro-2,5-dimethyl-4-nitrobenzene are added and the mixture is stirred at 80° C. After 22 h, the mixture is heated to 120° C. and stirred for a further 20 h. Then the mixture is cooled and added to 100 ml of water and 15 ml of saturated aqueous sodium chloride solution. Extraction is effected three times with 300 ml each time of ethyl acetate, and the combined organic phases are dried over sodium sulfate. After filtration, the solvents are removed under reduced pressure and the residue is purified by chromatography on silica gel (1:1 cyclohexane/ethyl acetate). This affords 383 mg (52% of theory) of the desired compound.

reactant | 3-methoxypyridinone | 2.69 mmol, 336 mg | COC=1C(NC=CC1)=O | C6H7NO2
reactant | potassium tert-butoxide | 4.03 mmol, 452 mg | CC(C)([O-])C.[K+]
reactant | 1-fluoro-2,5-dimethyl-4-nitrobenzene | 2.96 mmol, 500 mg | FC1=C(C=C(C(=C1)C)[N+](=O)[O-])C | C8H8FNO2
reactant | sodium chloride | 15 ml | [Cl-].[Na+]
solvent | DMF | 10 ml | CN(C)C=O | C3H7NO
solvent | water | 100 ml | O | H2O
product | 1-(2,6-Dimethyl-4-nitrophenyl)-3-methoxypyridin-2(1H)-one | CC1=C(C(=CC(=C1)[N+](=O)[O-])C)N1C(C(=CC=C1)OC)=O | C14H14N2O4
